US05459131
N-Methoxy-N-methyl-Nα -t-butoxycarbonyl-L-phenylalaninamide
To a solution of 44.2 g (0.65 mole) of imidazole in methylene chloride (300 ml) is added with stirring 19.4 ml (0.13 mole) of phenyldichlorophosphate. The mixture is stirred at room temperature for 0.5 hour, and then cooled to 0° C. A solution of 34.5 g (0.13 mole) of N-t-butoxycarbonyl-L-phenylalanine in 10 methylene chloride (120 ml) is added, and the mixture is stirred at 0° C. for 1 hr. N,O-dimethylhydroxylamine hydrochloride (15.2 g, 0,156 mole) is then added in small portions. The resulting mixture is stirred at 0° C. for 5 hours and at room temperature for 16 hours. The final suspension is diluted with 400 ml of methylene chloride, washed with 1N hydrochloric acid (2×200 ml), water (200 ml), saturated potassium carbonate solution (200 ml), and brine (200 ml), and dried over anhydrous magnesium sulfate. Removal of solvents gives 40.2 g of the title compound as a pale yellow oil, [α]D26 +22°±1 (c, 1.052, CHCl3).

reactant | imidazole | 0.65 mole, 44.2 g | N1C=NC=C1 | C3H4N2
reactant | phenyldichlorophosphate | 0.13 mole, 19.4 ml | C1(=CC=CC=C1)OP(=O)(Cl)Cl | C6H5Cl2O2P
reactant | N-t-butoxycarbonyl-L-phenylalanine | 0.13 mole, 34.5 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 0,156 mole, 15.2 g | Cl.CNOC
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyl-Nα -t-butoxycarbonyl-L-phenylalaninamide | 40.2 g | CON(C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)C | C16H24N2O4
